US04897393
A mixture of 0.95 g of 5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-(4-benzyloxybenzyl)benzoxazole, 10 ml of a 25% hydrogen bromide solution in acetic acid and 10 ml of acetic acid is stirred at room temperature overnight. Ethyl acetate and water are added to the reaction mixture. The ethyl acetate layer is washed with water, dried and evaporated to remove the solvent. The residue is crystallized with n-hexane, and recrystallized from a mixture of ethyl acetate and n-hexane, whereby 0.42 g of 5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-(4-hydroxybenzyl)benzoxazole is obtained as colorless needles.

reactant | 5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-(4-benzyloxybenzyl)benzoxazole | 0.95 g | O=C1SC(C(N1)=O)CC=1C=CC2=C(N=C(O2)CC2=CC=C(C=C2)OCC2=CC=CC=C2)C1 | C25H20N2O4S
reactant | hydrogen bromide | Br | BrH
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-(4-hydroxybenzyl)benzoxazole | 0.42 g, Yield 55% | O=C1SC(C(N1)=O)CC=1C=CC2=C(N=C(O2)CC2=CC=C(C=C2)O)C1 | C18H14N2O4S
